US07378409B2
A solution of benzyl (1S,2R,4R)-4-(tert-butylamino)-2-(isopropylsulfonylmethyl)-cyclohexylcarbamate (230 mg, 0.54 mmol), in 50 mL of MeOH was treated with 50 mg of 10% Pd/C and hydrogenated overnight at 55 psi. The mixture was filtered through Celite and concentrated on a rotary evaporator to give 150 mg of (1R,3R,4S)-N1-tert-butyl-3-(isopropylsulfonylmethyl)cyclohexane-1,4-diamine. This was used without further purification.

reactant | benzyl (1S,2R,4R)-4-(tert-butylamino)-2-(isopropylsulfonylmethyl)-cyclohexylcarbamate | 0.54 mmol, 230 mg | C(C)(C)(C)N[C@H]1C[C@H]([C@H](CC1)NC(OCC1=CC=CC=C1)=O)CS(=O)(=O)C(C)C | C22H36N2O4S
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | (1R,3R,4S)-N1-tert-butyl-3-(isopropylsulfonylmethyl)cyclohexane-1,4-diamine | 150 mg | C(C)(C)(C)N[C@H]1C[C@H]([C@H](CC1)N)CS(=O)(=O)C(C)C | C14H30N2O2S
